US06689784B2
2-Chlorocarbazole
A mixture of 4′-Chloro-2-nitrobiphenyl (640 mg) and triethyl phosphite (1.9 ml) was heated at 150° C. for 3 hrs. The mixture was then allowed to cool and purified by flash chromatography (5-10% ethyl acetate/hexane) to afford the sub-title compound as a white solid (382 mg): 1H NMR (400 MHz, d6-DMSO) δ 7.12-7.23 (2H, m), 2.40 (1H, m), 7.46-7.54 (2H, m), 8.12 (2H, d).

reactant | 4′-Chloro-2-nitrobiphenyl | 640 mg | ClC1=CC=C(C=C1)C1=C(C=CC=C1)[N+](=O)[O-] | C12H8ClNO2
reactant | triethyl phosphite | 1.9 ml | P(OCC)(OCC)OCC | C6H15O3P
product | 2-Chlorocarbazole | 382 mg | ClC1=CC=2NC3=CC=CC=C3C2C=C1 | C12H8ClN
